Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
rectal pain
 
Major Surgical or Invasive Procedure:
Drainage of perirectal abscess, placement ___  

 
History of Present Illness:
___ with history of hemorrhoids since she was a ___ who is 
pregnant as of 3 weeks ago (IVF). She presents to the ED with 
___ days of persistent anal discomfort, especially when passing 
stool and sensation of foreign body in the rectum. The patient 
performed a digital rectal exam and felt a hard, tender mass 
that she thought was associated with one of her hemorrhoids. She 
had diarrhea today. No BRBPR, no abdominal pain, no fevers or 
chills.

Regarding her bowel habits, her stool is usually soft but she 
does spend sometime sitting on the toilet before she passes 
stool. This has been a habit all her life. She report occasional 
blood in the toilet paper attributed to her hemorrhoids, 
although this has not happened recently. 

ROS: negative for all other systems except as above
 
Past Medical History:
1.  Migraines
2.  Benign breast tumor
3.  Infertility
 
Social History:
___
Family History:
Family History: her mother has a history of hemorrhoids. No 
history of colorectal cancer or IBD in first or second degree 
relatives. Aunt had breast cancer. 

 
Physical Exam:
Gen: [x] NAD, [x] AAOx3
CV: [x] RRR, [] murmur
Resp: [x] breaths unlabored, [x] CTAB, [] wheezing, [] rales
Abdomen: [x] soft, [] distended, [] tender, [] rebound/guarding
Wound: [x] incisions clean, dry, intact, SS output
Ext: [c] warm, [] tender, [] edema

 
Pertinent Results:
___ 06:32AM BLOOD WBC-16.8* RBC-3.34* Hgb-10.6* Hct-32.1* 
MCV-96 MCH-31.7 MCHC-33.0 RDW-11.9 RDWSD-41.4 Plt ___
___ 11:40AM BLOOD WBC-19.4* RBC-4.04 Hgb-12.6 Hct-38.3 
MCV-95 MCH-31.2 MCHC-32.9 RDW-12.1 RDWSD-41.7 Plt ___
___ 11:40AM BLOOD Neuts-87.0* Lymphs-5.9* Monos-6.3 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-16.86* AbsLymp-1.15* 
AbsMono-1.23* AbsEos-0.01* AbsBaso-0.06
___ 06:32AM BLOOD Glucose-71 UreaN-9 Creat-0.4 Na-137 K-3.5 
Cl-101 HCO3-20* AnGap-16
___ 06:32AM BLOOD Calcium-8.5 Phos-3.3 Mg-1.7
___ 06:32AM BLOOD HCG-1189

MRI
1. Supralevator abscess in the right ischioanal fossa, measuring 
4.3 x 2.6 x 4.5 cm. This abscesses is contiguous with at least 
one transsphincteric fistula at the 6 o'clock position, and 
potentially a second fistula at the 7 o'clock position. There is 
extensive regional edema, reactive lymphadenopathy, and reactive 
anorectum wall thickening. 
  
2. A fetal pole is not identified, likely due to early 
gestational age of 3 weeks. The endometrial cavity is distended 
with fluid. 
  
3. Both ovaries demonstrate evidence of hyperstimulation, on a 
background of IVF. 
  
4. There is moderate free pelvic fluid, which may related to the 
abscess or the ovarian hyperstimulation. 

 
Brief Hospital Course:
Ms. ___ 3 weeks pregnant presenting with supralevator 
abscess s/p drainage of abscess and ___ placement on ___. 
She tolerated the procedure well without complications (Please 
see operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management. 
Neuro: Patient with rectal pain and received Tylenol and 
oxycodone for breakthrough pain, hypotensive(bp 53/36),with 
standing resolved with IV fluid bolus; thereafter normotensive. 
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. She had good 
pulmonary toileting, as early ambulation and incentive 
spirometry were encouraged throughout hospitalization.  
GI: The patient was initially kept NPO after the procedure. The 
patient was advanced to and tolerated a regular diet. Patient's 
intake and output were closely monitored.  
GU: The patient voided spontaneously. Urine output was monitored 
as indicated.  
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.  
Heme: The patient received subcutaneous heparin and ___ dyne 
boots during this stay. She was encouraged to get up and 
ambulate as early as possible. 

On POD#0, the patient was discharged to home. At discharge, she 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 2 
weeks. This information was communicated to the patient directly 
prior to discharge. 
 
 Post-Surgical Complications During Inpatient Admission:  
 [ ] Post-Operative Ileus resolving w/o NGT  
 [ ] Post-Operative Ileus requiring management with NGT  
 [ ] UTI  
 [ ] Wound Infection  
 [ ] Anastomotic Leak  
 [ ] Staple Line Bleed  
 [ ] Congestive Heart failure  
 [ ] ARF  
 [ ] Acute Urinary retention, failure to void after Foley D/C'd  

 [ ] Acute Urinary Retention requiring discharge with Foley 
Catheter  
 [ ] DVT  
 [ ] Pneumonia  
 [ ] Abscess  
 [x] None  
 Social Issues Causing a Delay in Discharge:  
 [ ] Delay in organization of ___ services  
 [ ] Difficulty finding appropriate rehab hospital disposition.  

 [ ] Lack of insurance coverage for ___ services  
 [ ] Lack of insurance coverage for prescribed medications.  
 [ ] Family not agreeable to discharge plan.  
 [ ] Patient knowledge deficit related to ileostomy delaying 
dispo  
 [x] No social factors contributing in delay of discharge.  
 
 
Medications on Admission:
estradiol 2 mg oral DAILY  
Prenatal vitamins
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*4 Tablet Refills:*0 
3.  estradiol 2 mg oral DAILY  
4. Prenatal vitamins
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Supralevator abscess with fistula 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted with rectal pain and on MRI found to have a 
perirectal abscess and was taken to operating room for drainage 
of rectal abscess and ___ placement.

General: You will have some residual drowsiness from your 
sedative/anesthetic. You will need to have someone drive you 
home. Do not drive or operate machinery for 24 hours and/or if 
you are taking narcotic pain medication the days following 
surgery.  
Diet: drink plenty of fluids and eat foods high in fiber. Avoid 
foods you know will constipate you or give you GI distress 
(plain white bread, pasta). Resume your normal diet when you are 
moving your bowels normally.  
Activity: For the first 48 hours avoid strenuous activity./heavy 
lifting. Resume your normal activity when you feel comfortable. 
You may drive when you have been off narcotic pain medication 
for 24 hours.  
Pain control: It is normal to have pain for a few weeks 
following surgery. You will go home on a combination of over the 
counter pain medication and limited amount of narcotic pain 
medication per OB. You may take 2 Extra Strength Tylenol 
(1000mg) every 8 hours as needed for pain.
Bowel Regimen: Avoid extremes in bowel movements (diarrhea or 
constipation). You should take a fiber supplement (Metamucil, 
Konsyl, Benefiber, Citrucel): one tablespoon with a glass of 
water once a day. Be sure to drink fluids all day long. If you 
do not have a bowel movement in 48 hours after surgery take 30 
ccs Milk of Magnesia (one capful) every 6 hours until bowel 
movement. If you do not have a bowel movement after 4 doses of 
Milk of Magnesia please call our office. 
Rectal Care: It is normal to see blood and mucus on pad or with 
bowel movements. It is normal for your wounds to open up. Warm/ 
hot water is soothing, helps relieve pain, reduces swelling, 
increases blood flow and promotes healing. It is important to 
keep the rectal area clean especially after bowel movements. Tub 
baths (warm water soaks) for ___ minutes ___ times a day 
should be done especially after every bowel movement. You may 
need to wear a panty liner or pad on your clothing for spotting. 
It is normal to have some bleeding with bowel movements for a 
few weeks following surgery.  
Bowel and Urinary Management: It is normal to have pain with 
bowel movements. This will diminish as healing occurs. 
Constipation or diarrhea make the pain much worse and must be 
avoided. Straining should be avoided. Do not sit on the toilet 
for more than 5 minutes at a time.  
Rectal pain may make it difficult to urinate. If you cannot 
urinate after 6 hours, contact the office. If, after a few days, 
you lose the ability to urinate this may indicate significant 
infection. Contact the office immediately or go the closest 
Emergency Room should this occur.  
 Reasons to call the office after your surgery:  
 *Bleeding is excessive (bleeding that will not stop with direct 
pressure applied or if you are soaking through the dressing and 
clothing)  
 *If you pass a large amount of blood (one cup or more) or feel 
faint from bleeding  
 *If you are unable to urinate for 6 hours  
 *If you run a fever greater than 101 degrees  
 *If you have nausea and vomiting that persists making it 
difficult for you to keep fluids down  
 *Firm painful lump with green/yellow., smelly drainage 
 Best Wishes, 
Your ___ Care Team 
 
 
Followup Instructions:
___